US06977262B2
4-(2,1,3-Benzoxadiazol-4-yl)-5-cyano-4,7-dihydro-6-(piperidin-4-yl)-2H-pyrazolo[3,4-b]pyridine
4-(2,1,3-Benzoxadiazol-4-yl)-6-(1-t-butoxycarbonylpiperidin-4-yl)-5-cyano-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine (1.7 g) was added to trifluoroacetic acid (20 mL) at 0° C. and the mixture was stirred for an hour. The solvent was evaporated under reduced pressure. After alkalification with sodium bicarbonate, the mixture was extracted with ethyl acetate. The solvent was evaporated under reduced pressure and the residue was washed with acetonitrile, and the precipitated crystals were collected by filtration to give the title compound (0.83 g) as yellow crystals.

reactant | 4-(2,1,3-Benzoxadiazol-4-yl)-6-(1-t-butoxycarbonylpiperidin-4-yl)-5-cyano-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine | 1.7 g | N=1ON=C2C1C=CC=C2C2C=1C(NC(=C2C#N)C2CCN(CC2)C(=O)OC(C)(C)C)=NNC1 | C23H25N7O3
solvent | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(2,1,3-Benzoxadiazol-4-yl)-5-cyano-4,7-dihydro-6-(piperidin-4-yl)-2H-pyrazolo[3,4-b]pyridine | 0.83 g | N=1ON=C2C1C=CC=C2C2C=1C(NC(=C2C#N)C2CCNCC2)=NNC1 | C18H17N7O
